US07544699B2
(2S)-{[7-(4-tert-Butyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-3-(4-hydroxy-phenyl)-propionic acid methyl ester
500 mg (1.6 mmol) of 7-(4-tert-Butylphenoxy)-isoquinoline-3-carboxylic acid was reacted with 430 mg (1.8 mmol) of (2S)-amino-3-(4-hydroxy-phenyl)-propionic acid methyl ester as described in general procedure A. The crude product was purified by flash column chromatography on silica gel using 3:2 hexane/ethyl acetate as eluent, to afford 600 mg of the title compound as a white solid.

reactant | 7-(4-tert-Butylphenoxy)-isoquinoline-3-carboxylic acid | 1.6 mmol, 500 mg | C(C)(C)(C)C1=CC=C(OC2=CC=C3C=C(N=CC3=C2)C(=O)O)C=C1 | C20H19NO3
reactant | (2S)-amino-3-(4-hydroxy-phenyl)-propionic acid methyl ester | 1.8 mmol, 430 mg | COC([C@H](CC1=CC=C(C=C1)O)N)=O | C10H13NO3
product | (2S)-{[7-(4-tert-Butyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-3-(4-hydroxy-phenyl)-propionic acid methyl ester | 600 mg | COC([C@H](CC1=CC=C(C=C1)O)NC(=O)C=1N=CC2=CC(=CC=C2C1)OC1=CC=C(C=C1)C(C)(C)C)=O | C30H30N2O5
